US05703074
160.65 g (1.35 mol) of thionyl chloride are placed in a 1 liter three-necked flask fitted with a mechanical stirrer and a condenser. 164.2 g (0.9 mol) of p-methylphenylpropionic acid are added little by little thereto at room temperature. After 4 hours, the reaction is terminated by heating at 60° C. for 1 hour. Excess SOCl2 is removed by distillation/n vacuo. In that manner 164.5 g of p-methylphenylpropionic acid chloride are obtained.

reactant | thionyl chloride | 1.35 mol, 160.65 g | S(=O)(Cl)Cl | Cl2OS
reactant | p-methylphenylpropionic acid | 0.9 mol, 164.2 g | CC1=CC=C(C=C1)C(C(=O)O)C | C10H12O2
product | p-methylphenylpropionic acid chloride | 164.5 g | CC1=CC=C(C=C1)C(C(=O)Cl)C | C10H11ClO
